US09227923B2
2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylaniline (0.50 g) and pyridine (0.20 g) were dissolved in tetrahydrofuran (10 ml). To the solution, 4-(chloromethyl)benzoyl chloride (0.33 g) and 4-dimethylaminopyridine (0.02 g) were added and the mixture was refluxed under heating for 3 hours. After adjusting to room temperature, the reaction solution was diluted with water and extracted twice with ethyl acetate. The organic phases were combined, washed with 2N hydrochloric acid and dried over Mg(SO4). After filtering off the drying agent, the solvent was distilled off under reduced pressure to obtain a crude product. The crude product was washed with hexane to obtain 4-(chloro methyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoro-propan-2-yl)-6-methylphenyl]benzamide (0.62 g, yield 74%).

reactant | 2-Ethyl-4-(1,1,1,2,3,3,3-heptafluoropropan-2-yl)-6-methylaniline | 0.50 g | C(C)C1=C(N)C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)F)C | C12H12F7N
reactant | pyridine | 0.20 g | N1=CC=CC=C1 | C5H5N
reactant | 4-(chloromethyl)benzoyl chloride | 0.33 g | ClCC1=CC=C(C(=O)Cl)C=C1 | C8H6Cl2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.02 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | water | O | H2O
product | 4-(chloro methyl)-N-[2-ethyl-4-(1,1,1,2,3,3,3-heptafluoro-propan-2-yl)-6-methylphenyl]benzamide | 0.62 g, yield 74% | ClCC1=CC=C(C(=O)NC2=C(C=C(C=C2C)C(C(F)(F)F)(C(F)(F)F)F)CC)C=C1 | C20H17ClF7NO
